US04001199
b. Preparation of Z-β-Ala-Arg(NO2)-Pro-OH
In 30 ml. of acetone was dissolved 2.82 g. of Z-β-Ala-Arg(NO2)-Pro-OMe and, under cooling with ice, 10.7 ml. of 1N aqueous sodium hydroxide was added. The mixture was stirred at room temperature for 2 hours. After the mixture was neutralized with 11 ml. of 1N hydrochloric acid, the acetone was distilled off under reduced pressure. To the oily residue was added 30 ml. of cold water and the water was removed by decantation. The residue was washed once with cold water and dried. It was then chromatographed on a column of silica gel (90 g.) with a developer solvent, ethyl acetate-pyridine-acetic acid-water(60:20:6:11). The fractions rich in the contemplated compound were pooled and concentrated to dryness under reduced pressure. The residue was washed with ether and collected by filtration. Yield 2.62 g., melting point: 65°-67° C; [α]D22 -27.5° (c=1.07 %, DMF).

reactant | Z-β-Ala-Arg(NO2)-Pro-OMe | N(CCC(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N1[C@H](C(=O)OC)CCC1)C(=O)OCC1=CC=CC=C1 | C23H33N7O8
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | Z-β-Ala-Arg(NO2)-Pro-OH | N(CCC(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C22H31N7O8
